US05198449
N,α-Bis(4-fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanamine dihydrochloride
A mixture of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine (3.30 g, 0.0109 mol), benzylbromide (1.86 g, 0.0109 mol), and sodium bicarbonate (1.68 g, 0.02 mol) was stirred 16 h at room temperature in 300 mL of acetonitrile (dried over 4 A molecular sieves) containing sodium iodide (0.2 g). The mixture was then heated at reflux 16 h followed by stirring 72 h at room temperature. The reaction was stripped to dryness and partitioned between chloroform and water. The chloroform layer was extracted with 5% sodium hydroxide and dried (Na2SO4). The chloroform was removed to give a fluffy-brown residue. This material was dissolved in methylene chloride for flash chromatography on a silica gel column. Elution was accomplished using 1% acetone in methylene chloride, 3% acetone in methylene chloride, and 5% acetone in methylene chloride. Fractions of similar purity were combined, and solvents removed to give an oil. This oil was converted to the HCl salt in an ethanol-diethyl ether mixture. The white solid obtained was then recrystallized from methanol-diethyl ether to give a white solid. The solid was dried 16 h at 78° C. in the presence of phosphorus pentoxide. This method provided 1.86 g (36.7%) of white crystalline solid, mp 241°-242° C. (dec.).

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | 0.0109 mol, 3.30 g | FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H20F2N2
reactant | benzylbromide | 0.0109 mol, 1.86 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bicarbonate | 0.02 mol, 1.68 g | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol diethyl ether | C(C)O.C(C)OCC
product | N,α-Bis(4-fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanamine dihydrochloride | 1.86 g, 36.7% | Cl.Cl.FC1=CC=C(C=C1)NC(C1CCN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)F | InChI=1S/C25H26F2N2.2ClH/c26-22-8-6-20(7-9-22)25(28-24-12-10-23(27)11-13-24)21-14-16-29(17-15-21)18-19-4-2-1-3-5-19;;/h1-13,21,25,28H,14-18H2;2*1H
